US05112834
E. 8-amino-3-formyl-2-methyl-imidazo[1,2-a]pyridine
0.5 g 3-formyl-2-methyl-8-nitro-imidazo[1,2-a]pyridine, dissolved in 200 ml methanol, is hydrogenated after addition of a catalytic amount& of a commercial Pd/C-catalyst at room temperature at low pressure for 11/2 hours.

reactant | 3-formyl-2-methyl-8-nitro-imidazo[1,2-a]pyridine | 0.5 g | C(=O)C1=C(N=C2N1C=CC=C2[N+](=O)[O-])C | C9H7N3O3
solvent | methanol | 200 ml | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 8-amino-3-formyl-2-methyl-imidazo[1,2-a]pyridine | NC=1C=2N(C=CC1)C(=C(N2)C)C=O | C9H9N3O
